US07825214B2
Binary Azeotrope: A water borne solution of SMA ammonia adducts (25% solid) was heated. At 93° C., a binary azeotrope mixture of cumene and acetophenone was formed that carried cumene and acetophenone out of the resin solution. After keeping the solution at 93° C. for six hours, the level of acetophenone was reduced to 2% (a 98% reduction) and the level of cumene was reduced to 25% (a 75% reduction) of their original levels. An azeotrope can also be formed under reduced pressure. Similar results in the reduction of cumene and acetophenone levels were obtained under reduced pressure (0.15 atmosphere) at 93° C. and four hours.

reactant | ammonia | N | H3N
reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | water | O | H2O
product | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
